US05616601
Step 1: Preparation of 5-methyl-N-[4-(methylsulfonyl)phenyl]-2-pyridinecarboximidamide
To a suspension of 4-(methylsulfonyl)aniline hydrochloride (10 mmol) in toluene (60 ml) at 0° C., trimethylaluminum (2M solution in toluene, 10 ml, 20 mmol) is added over 10 minutes. The reaction mixture is allowed to warm to room temperature and stirred for 2 hours. A solution of 5-methyl-2-cyanopyridine (20 mmol) in toluene (100 ml) is added over 10 minutes and the mixture is heated to 85°-90° C. After 24 hours, the reaction mixture is cooled to room temperature and poured over a slurry of silica gel in chloroform. After filtration, the residue is washed with a mixture of methylene chloride and methanol and later with methanol. The combined filtrates are concentrated and the resulting solid is stirred with a mixture of hexane and ethyl acetate (1000 ml) and filtered. The product obtained is used in the next reaction without further purification.

reactant | 4-(methylsulfonyl)aniline hydrochloride | 10 mmol | Cl.CS(=O)(=O)C1=CC=C(N)C=C1
reactant | trimethylaluminum | 20 mmol, 2M, 10 ml | C[Al](C)C
reactant | 5-methyl-2-cyanopyridine | 20 mmol | CC=1C=CC(=NC1)C#N | C7H6N2
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 5-methyl-N-[4-(methylsulfonyl)phenyl]-2-pyridinecarboximidamide | CC=1C=CC(=NC1)C(NC1=CC=C(C=C1)S(=O)(=O)C)=N | C14H15N3O2S
